* C:\Users\Joakim\Documents\Elektronikk og synth\LTspice\OTA-gain-test.asc
XU17 0 N002 N001 N009 N003 LT1001
R37 N004 N005 18k
V6 N001 0 15
V7 N009 0 -15
XU18 P001 N008 P002 N005 N006 N001 N009 0 NC_01 HALF13700
I3 0 N004 5.4mA
V8 N007 0 5 AC 1
R2 P002 0 510
R3 P001 N001 12k
R4 0 N008 510
R1 N007 N008 27k
R5 N003 N002 22.5k
R6 N006 0 10k
.lib LTC.lib
.lib lm13700.sub
;tran 0 0.01 0 0.1
.dc i3 0 -2mA 500uA
.lib LTC.lib
.backanno
.end
