* C:\Program Files (x86)\LTC\LTspiceIV\Triangle oscillator.asc
XU1 N010 0 N001 N011 N008 LT1001
XU2 0 N006 N001 N011 N007 LT1001
R1 N009 P001 1k
R2 N008 N010 120k
R3 N007 N010 47k
C1 N006 N007 1µ
V1 N001 0 15
V2 0 N011 15
D1 N009 N008 D
R4 N006 N004 5k
Q1 0 P001 N005 0 PNP
XU3 N005 N003 N001 N011 N004 LT1001
R5 N005 N002 100k
R6 N003 N002 100k
R7 N004 N003 100k
V3 N002 0 5
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 0 10 5
.lib LTC.lib
.backanno
.end
